US05157121
1-[(N-Ethylsulfonyl-N-ethylamino)sulfonyl]-3-(4,6-diethoxy-2-pyrimidyl)urea
65.2 g of phenyl (N-ethylsulfonyl-N-methylamino)sulfonylcarbamate are dissolved in 700 ml of toluene, 36.6 g of 2-amino-4,6-diethoxypyrimidine are added at room temperature, and the mixture is heated at 110° C. for 2 hours. After cooling to room temperature, the precipitate is filtered at 0° C. and washed with 200 ml of toluene. 82.6 g of the desired product of a purity of 98.1% are obtained, which corresponds to a yield of 95.3% of theory.

reactant | phenyl (N-ethylsulfonyl-N-methylamino)sulfonylcarbamate | 65.2 g | C(C)S(=O)(=O)N(C)S(=O)(=O)NC(OC1=CC=CC=C1)=O | C10H14N2O6S2
reactant | 2-amino-4,6-diethoxypyrimidine | 36.6 g | NC1=NC(=CC(=N1)OCC)OCC | C8H13N3O2
reactant | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(N-Ethylsulfonyl-N-ethylamino)sulfonyl]-3-(4,6-diethoxy-2-pyrimidyl)urea | 82.6 g, yield of 95.3% | C(C)S(=O)(=O)N(CC)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OCC)OCC | C13H23N5O7S2
